US07211668B2
N-{2-[5-(4-Chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-{[4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetyl}-glycine ethyl ester
The title compound was synthesized by the reaction of N-{2-[5-(4-chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester with [4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetic acid as per the procedure of example 13. 1H NMR (400 MHz; DMSO-d6) δ 10.97 (s, 1H), 9.16 (brs, 1H), 8.40 (d, 0.6H), 8.38 (d, 0.4H), 8.06–7.94 (m, 2H), 7.91 (d, 0.6H), 7.85 (d, 0.4H), 7.45 (d, 4H), 7.37 (t, 4H), 7.29 (t, 2H), 6.96–6.93 (m, 1H), 6.80 (s, 1H), 4.81 (s, 1.2H), 4.63 (s, 0.8H), 4.36 (s, 0.8H), 4.18 (q, 0.8H), 4.07 (s, 1.2H), 4.06 (q, 1.2H), 3.61 (t, 1.2H), 3.48–3.40 (m, 2H), 3.27 (t, 0.8H), 1.25 (t, 1.2H), 1.17 (t, 1.8H).

reactant | N-{2-[5-(4-chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC(=NN1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C14H16ClN5O6S2
reactant | [4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=NC(N(C=C1)CC(=O)O)=O | C20H17N3O5
product | N-{2-[5-(4-Chloro-2-nitrophenyl)-1,3,4-thiadiazole-2-sulfonylamino]-ethyl}-N-{[4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetyl}-glycine ethyl ester | C(C)OC(CN(C(CN1C(=O)N=C(NC(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)=O)CCNS(=O)(=O)C=1SC(=NN1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C34H31ClN8O10S2
